US06350762B1
3) Synthesis of 2-cyanoethyl 4-(3-chlorophenyl)-2,6-dimethyl-5-(3-phenyl-2-propene-1-ylcarbamoyl)-1,4-dihydropyridine-3-carboxylate
193 mg (0.568 mmol) of 2-acetyl-3-(3-chlorophenyl)-N-(3-phenyl-2-propene-1-yl)acrylamide and 87.6 mg (0.568 mmol) of 2-cyanoethyl 3-aminocrotonate were heated at 70° C. under stirring in 2.8 ml of 2-propanol overnight. 2-Propanol was evaporated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=1/2) to obtain the title compound.

reactant | 2-acetyl-3-(3-chlorophenyl)-N-(3-phenyl-2-propene-1-yl)acrylamide | 0.568 mmol, 193 mg | C(C)(=O)C(C(=O)NCC=CC1=CC=CC=C1)=CC1=CC(=CC=C1)Cl | C20H18ClNO2
reactant | 2-cyanoethyl 3-aminocrotonate | 0.568 mmol, 87.6 mg | N\C(=C/C(=O)OCCC#N)\C | C7H10N2O2
solvent | 2-propanol | 2.8 ml | CC(C)O | C3H8O
product | 2-cyanoethyl 4-(3-chlorophenyl)-2,6-dimethyl-5-(3-phenyl-2-propene-1-ylcarbamoyl)-1,4-dihydropyridine-3-carboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(NCC=CC1=CC=CC=C1)=O)C)C)C(=O)OCCC#N | C27H26ClN3O3
